US05134111
(c) Preparation of (Z)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid
2.2 g of (Z)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid was dissolved in 40 ml of acetone, to which 2.5 ml of concentrated hydrochloric acid was added under light-shielding conditions, followed by stirring in a stream of nitrogen at room temperature for 2 hours. The reaction mixture was poured into water, and the resultant crystals were filtered, washed with hexane and dried in vacuo to obtain 1.7 g of the titled compound as yellow crystals.

reactant | (Z)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 2.2 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)\C=C(/C(=O)O)\C | C20H24O5
reactant | water | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 2.5 ml | Cl | ClH
product | (Z)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 1.7 g | OC1=C(C=C(C2=CC=CC(=C12)CCC)\C=C(/C(=O)O)\C)OC | C18H20O4
